US07354933B2
17 ml of a 1M solution of LiAlH4 in THF are added dropwise to a solution of 4 g of 4-ethoxycarbonyl-6-methoxyquinoline in 100 ml of anhydrous THF, under an inert atmosphere of argon at a temperature in the region of 5° C. The reaction medium is maintained with stirring for 16 hours at a temperature in the region of 20° C. 50 ml of water and 50 ml of ethyl acetate are added. After separation of the phases by settling, the organic phase is dried over sodium sulfate, filtered and then concentrated under reduced pressure. The foam obtained is purified by flash chromatography (SiO2, EtOAc as eluent, Ar). The fractions containing the product are concentrated under reduced pressure. 0.86 g of 4-hydroxymethyl-6-methoxyquinoline is thus obtained, the characteristics of which product are as follows:

reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-ethoxycarbonyl-6-methoxyquinoline | 4 g | C(C)OC(=O)C1=CC=NC2=CC=C(C=C12)OC | C13H13NO3
reactant | water | 50 ml | O | H2O
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-hydroxymethyl-6-methoxyquinoline | 0.86 g | OCC1=CC=NC2=CC=C(C=C12)OC | C11H11NO2
